Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Motrin / Vicodin
 
Attending: ___
 
Chief Complaint:
Reason for Consult: Transient left-sided numbness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ right-handed man with a 
history
of an irregular heartbeat, exercise-induced left bundle branch
block, history of small right pontine infarct, recurrent TIAs 
who
presents with transient patchy left-sided numbness.

The patient reports that he was sitting in his bed today at
around 8:30 ___, when he acutely felt numbness in his left second
third and fourth toes.  The symptoms lasted for less than an
hour.  However around 10 ___, he had numbness in various other
parts of the body, including the area behind his left ear,
followed by left knee, then left fingertips.  No other vertigo,
weakness, language difficulty, headache at this time.  No recent
illnesses.  The patient decided to come in for further 
evaluation
given his history of stroke.  
On arrival to the ED, he also endorsed left-sided chest pain,
which had been going on and off for the past couple weeks.  He
described his chest pain as sharp pain, nonexertional,
nonradiating, nonpleuritic.  There is no related dyspnea.

Of note, he is followed by Dr. ___ in stroke clinic, last
seen in ___.  On that clinic visit, he had had
transient left-sided numbness for about an hour several weeks
prior, involving his fingers and toes on the left side, without
weakness.  He was evaluated at an outside hospital, with 
negative
imaging studies per report. His simvastatin 20 mg was switched 
to
atorvastatin 80 mg, and was told to add Plavix to his baby
aspirin.  This event was felt to be due to a TIA, although the
etiology is not particularly clear, though he does have
hyperlipidemia as a potential risk factor.  He was advised to
continue dual antiplatelet therapy for about 3 months.  The
patient had been taking aspirin and Plavix up until yesterday.

He was also evaluated by cardiology recently who wanted to
evaluate him for underlying paroxysmal atrial fibrillation.  He
did have a Ziopatch in ___ for about 10 days, which
revealed predominant sinus rhythm, with the known left bundle
branch block.  No atrial fibrillation was found.  He did have
multiple echoes in the past, with the most recent one being in
___, which was notable for normal EF, mild left 
ventricular
diastolic dysfunction.  There was suggestion of increased PCWP. 
An echo in ___, which was a good quality study, did not show a 
PFO or ASD.

 
Past Medical History:
PMH/PSH:
1. s/p right corneal transplant at ___ Eye and Ear ___,
___, due to congenital astigmatism. Mild Right ptosis 
since
then.  
2. Subsequently, he has had trace evidence of glaucoma for which
he is being medically treated.
3. s/p repair of a ruptured achilles tendon;  
4. borderline hypercholesterolemia (Total Cholesterol: 178,
LDL-chol: 123, triglycerides of 89, HDL of 33).
5.  Right pontine infarct with left hemiparesis and sensory
deficits, resolved with no residual deficits
6.  Recurrent TIAs
 
Social History:
___
Family History:
FAMILY HISTORY:
Notable for father with hypertension and coronary disease
diagnosed at age ___.  His paternal grandparents also had 
coronary
disease.  There is no family history of premature heart failure
or sudden cardiac death. Uncle and grandmother had diabetes;
Father had HTN.
 
Physical Exam:
ADMISSON:

PHYSICAL EXAMINATION
Vitals:  T: 99.8 HR: 96 BP: 160/94 RR: 16   SaO2: 100% on room
air
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G.  There is reproducible chest wall tenderness
in the left lateral anterior chest wall.
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands.

- Cranial Nerves: Right pupil 3->2.5 mm.  Left pupil 3->2 mm. 
There is slight ptosis of the right eye, which the patient 
states
is chronic from prior eye surgeries.  VF full to number 
counting.
EOMI, no nystagmus, no occasional psychotic intrusions on smooth
pursuit. V1-V3 without deficits to light touch bilaterally. No
facial movement asymmetry. Hearing intact to finger rub
bilaterally.  Speech is mildly dysarthric, which the patient is
unable to report if new or chronic.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: There are 4 beats of clonus at the left ankle
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  3+    3+     3+      2+       1
 R  2+    2+     2+      2        1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally including the areas the patient felt were numb.  No
extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg.

DISCHARGE EXAM

PHYSICAL EXAMINATION
Vitals:  T: 97.4 HR: 82 BP: 134/86  RR: 12  SaO2: 99% on room
air
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G.  There is reproducible chest wall tenderness
in the left lateral anterior chest wall.
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands.

- Cranial Nerves: Right pupil 3->2.5 mm.  Left pupil 3->2 mm. 
There is slight ptosis of the right eye, which the patient 
states
is chronic from prior eye surgeries.  VF full to number 
counting.
EOMI, no nystagmus, no occasional psychotic intrusions on smooth
pursuit. V1-V3 without deficits to light touch bilaterally. No
facial movement asymmetry. Hearing intact to finger rub
bilaterally.  No dysarthria appreciated.  Palate elevation 
symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: There are 4 beats of clonus at the left ankle
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  3+    3+     3+      2+       1
 R  2+    2+     2+      2        1  

Plantar response flexor on right

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally including the areas the patient felt were numb.  No
extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg.

 
Pertinent Results:
ADMISSION

___ 02:10AM BLOOD WBC-7.0 RBC-4.51* Hgb-13.9 Hct-39.8* 
MCV-88 MCH-30.8 MCHC-34.9 RDW-12.2 RDWSD-39.5 Plt ___
___ 02:10AM BLOOD Neuts-71.4* Lymphs-18.0* Monos-8.8 
Eos-1.0 Baso-0.4 Im ___ AbsNeut-4.96 AbsLymp-1.25 
AbsMono-0.61 AbsEos-0.07 AbsBaso-0.03
___ 12:05AM BLOOD ___ PTT-29.6 ___
___ 12:05AM BLOOD Glucose-182* UreaN-16 Creat-0.6 Na-142 
K-4.0 Cl-106 HCO3-23 AnGap-13
___ 12:05AM BLOOD ALT-47* AST-21 AlkPhos-88 TotBili-0.3
___ 12:05AM BLOOD Albumin-4.3 Calcium-8.7 Phos-2.5* Mg-2.1 
Cholest-119
___ 12:05AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:24AM BLOOD Lactate-1.9

STROKE LABS:

___ 02:59AM BLOOD %HbA1c-5.5 eAG-111
___ 12:05AM BLOOD Triglyc-177* HDL-32* CHOL/HD-3.7 
LDLcalc-52

IMAGING:

CT HEAD W/O CONTRAST ___
No evidence for acute intracranial abnormalities.

MR HEAD ___
1. Mildly degraded exam due to motion artifact.
2. No acute infarct, intracranial hemorrhage or mass effect.
3. Mild residual signal abnormality related to the previously 
identified right
pontine infarct.

CTA HEAH ___
No evidence of dissection.
 
Brief Hospital Course:
___ is a ___ right-handed man with a 
history of exercise-induced left bundle branch block, small 
right pontine infarct (left hemiparesis, left hemisensory loss 
per records--on right per patient), and prior TIA earlier this 
year (left hemisensory loss) who presented with transient patchy 
left-sided numbness. 

His exam on admission was notable for possible new dysarthria 
(not mentioned in prior clinic notes), which had resolved by the 
following morning. There were no appreciable sensory deficits, 
and chronic, known findings including brisk left-sided reflexes 
and right-sided ptosis. His non-contrast CT head, CTA, and MRI 
without contrast were unremarkable for acute intracranial 
processes. His HbA1c was 5.5, LDL was 52, and TSH is pending. 
Serology was sent to assess for mononeuritis multiplex 
including: ___ Lyme IgG/IgM Antibody; CRP; Sjogren's 
Antibodies; ACE; RPR; Vitamin B12, the results of which should 
be follow up on, on an outpatient basis.

The patient also endorsed left sided chest pain that was sharp, 
non-exertional, non-radiating, non-pleuritic, with no dyspnea, 
which had been on and off for the past couple of weeks. The 
cardiac exam was notable for reproducible chest wall tenderness 
in the left lateral anterior chest wall and was otherwise 
unremarkable. Troponins were negative x 2 (<0.01). His EKG had 
borderline ST changes in V6.

Transitional Issues

[] Continue taking your current anti-platelet medications: 
aspirin and clopidogrel; discuss transitioning to a single agent 
with your neurologist
[] Follow up with neurology on an outpatient basis
[] Follow up results of peripheral neurology work up; if work-up 
is negative, consider broadening work-up
[] Follow up with PCP regarding chest pain; if it recurs and is 
not reproducible, consider troponin, EKG, and possible stress 
test

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 80 mg PO QPM 
2. Clopidogrel 75 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left-sided numbness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care during your stay at ___ 
___.

You were admitted for transient left-sided numbness to exclude a 
stroke. Your work up so far has been unrevealing: your head CT, 
MRI, and blood vessel imaging did not show any evidence of a new 
stroke. The rest of the work up and monitoring included blood 
work and telemetry which was reassuring. Some of the blood work 
to look for nerve damage (neuropathy) is pending.

There was also concern for your heart given the presence of 
chest pain last night on admission. Your chest pain could be 
reproduced with pushing suggesting that it was a muscle issue. 
Also, your blood work looking at your heart was normal.

We also sent off blood work to test for other possible sources 
of your sensory loss, but these can be followed up on an 
outpatient basis.

At this time we recommend you continue the Aspirin and 
Clopidogrel (Plavix) as previously prescribed, and that you 
follow up with your neurologist at the next available 
appointment. 

It was a pleasure taking part of your care,

Your ___ Team

 
Followup Instructions:
___